US08034812B2
Production of N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)pyridin-3-yl]-3-(trifluoromethyl)benzamide
To a solution of N-{6-[(5-bromopyridin-3-yl)oxy]imidazo[1,2-b]pyridazin-2-yl}cyclopropanecarboxamide (200 mg, 0.53 mmol), 3-(trifluoromethyl)benzamide (160 mg, 0.91 mmol), trans-1,2-diaminocyclohexane (15 mg, 0.13 mmol) and potassium carbonate (220 mg, 1.6 mmol) in 1,4-dioxane (3.0 mL) was added copper (I) iodide (25 mg, 0.13 mmol) under argon atmosphere, and the mixture was stirred at 110° C. for 60 hr. The reaction mixture was cooled, and diluted with 20% tetrahydrofuran/ethyl acetate. The mixture was washed with water, 5% aqueous sodium hydrogencarbonate solution and saturated brine, dried over anhydrous magnesium sulfate, and filtrated. The solvent was evaporated under reduced pressure, and the residue was purified by NH silica gel column chromatography (ethyl acetate/hexane=60/40→100/0) and precipitated from ethyl acetate/hexane to give the title compound (110 mg, 42%) as a white powder.

reactant | N-{6-[(5-bromopyridin-3-yl)oxy]imidazo[1,2-b]pyridazin-2-yl}cyclopropanecarboxamide | 0.53 mmol, 200 mg | BrC=1C=C(C=NC1)OC=1C=CC=2N(N1)C=C(N2)NC(=O)C2CC2 | C15H12BrN5O2
reactant | 3-(trifluoromethyl)benzamide | 0.91 mmol, 160 mg | FC(C=1C=C(C(=O)N)C=CC1)(F)F | C8H6F3NO
reactant | trans-1,2-diaminocyclohexane | 0.13 mmol, 15 mg | N[C@H]1[C@@H](CCCC1)N | C6H14N2
reactant | potassium carbonate | 1.6 mmol, 220 mg | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 3.0 mL | O1CCOCC1 | C4H8O2
solvent | tetrahydrofuran ethyl acetate | O1CCCC1.C(C)(=O)OCC
catalyst | copper (I) iodide | 0.13 mmol, 25 mg | [Cu]I
product | N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)pyridin-3-yl]-3-(trifluoromethyl)benzamide | 110 mg, 42% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C=NC2)NC(C2=CC(=CC=C2)C(F)(F)F)=O)C1 | C23H17F3N6O3
